US05466705
Ethyl 2-chlorobenzimidate (2.80 g) and triethylamine (1.70 g) are dissolved in toluene (50 ml), to which is added dropwise (E)-3-chloro-2-methyl-2-butenoyl chloride at 5° C.-10° C. with stirring, and the stirring is continued at room temperature for 4 hours after the completion of the addition. After the completion of the reaction, the reaction mixture is added with toluene (150 ml), washed with a saline solution, dried on anhydrous magnesium sulfate and concentrated under a reduced pressure. The concentrate is purified through a silica gel column chromatography (Wakogel C-200: made by Wako Junyaku Kabushiki Kaisha) using a mixed solution of hexane-ethyl acetate (10:1) as a developing medium to obtain an oily ethyl (E)-N-(3-chloro-1-methyl-2-butenoyl)-2-chlorobenzimidate (2.37 g).

reactant | Ethyl 2-chlorobenzimidate | 2.80 g | ClC1=C(C(OCC)=N)C=CC=C1 | C9H10ClNO
reactant | triethylamine | 1.70 g | C(C)N(CC)CC | C6H15N
reactant | (E)-3-chloro-2-methyl-2-butenoyl chloride | Cl/C(=C(/C(=O)Cl)\C)/C | C5H6Cl2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl (E)-N-(3-chloro-1-methyl-2-butenoyl)-2-chlorobenzimidate | 2.37 g | ClC(=C(C(=O)C)/N=C(\C1=C(C=CC=C1)Cl)/OCC)C | C14H15Cl2NO2
